US04745222
To a solution of 1-tetralone (164.5 g) in about 400 ml THF was added, in four separate portions, TAMA (243 g) and trioxymethylene (99 g) over 31/2 hours, and the mixture refluxed for 20 hours. The mixture was cooled and portioned between Et2O and water, the layers separated and the aqueous layer extracted twice with Et2O. The combined Et2O layers are exhaustively washed with water, NaHCO3 and then with brine, dried (MgSO4) concentrated in vacuo to yield an oil which is flash chromatographed on silica gel using CH2Cl2 in several runs of 10-20 g per run. Fractions containing the fast moving material are combined, concentrated in vacuo to obtain the desired 2-methylene-1-tetralone.

reactant | 1-tetralone | 164.5 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | THF | about 400 ml | C1CCOC1 | C4H8O
product | 2-methylene-1-tetralone | C=C1C(C2=CC=CC=C2CC1)=O | C11H10O
